Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CC: ___ and vomiting

 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ with PMHx of anxiety/depression, migraines, marijuana
use, prior bulimia who is presenting with nausea/vomiting and
weight loss over the past 3 mo

Pt reports that symptoms started in ___ when she was 
having
difficulty in her ___ y relationship with her boyfriend. Started 
as
intermittent emesis every ___ and worsened in ___ when they
broke up. She says she occasionally had intermittent abdominal
pain associated with symptoms, but not significant amount. Over
the past 3 months she has started avoiding bread as she feels
this worsens symptoms, but is fine with other carbohydrates. 
Also
some worsening with milk, but denies excessive
bloating/flatulence. BMs used to be formed, every ___ days. Of
note, over the past 3 mo she has increased marijuana use as she
feels this helps the nausea to occasional MJ to every other day.
Also cut down on etoh use from ___ drinks every ___ days to
minimal drinking. Denies any dysphagia, odynophagia.

Over the past ___ wk she reports worsening of symptoms with
constant emesis and inability to keep food down. She traveled
recently to ___ and ___. She feels that symptoms
are different from her prior bulimia as she now feels like she
would like to eat and gain weight, but is unable to. Per chart
review in Atrius system she has gone from 121 lb in ___ to
110 lb now. PCP has been following her closely for her symptoms
and trialed one month of fluoxetine without improvement in
symptoms as well as daily PPI that helped somewhat. Also reports
having relief with antispasmodic. Work up for celiac normal,
though low total IgA. Was referred to GI, has appt ___ in 
atrius
system. She denies any f/c, blood in stool. Does report 
streaking
of blood in emesis currently just past 1 d with constant emesis.

In the ED: VSS- afebrile, HR 62-87, SBP 110-137, SpO2 97-99%
Exam: anxious appearing, epigastric pain to palpation without 
r/g
Labs notable for: CBC wnl - 0.9% eos but abs eos wnl, LFT wnl,
neg lipase, UA +ketones
Given: NaCl 1L, Zofran 4 mg x4, pantop 40x2, Haldol 1 mg IV x2,
sucralfate 1 g x3, dilaudid 0.5 IVx1
EKG: Normal sinus rhythm, no ST-TW changes, QTc 414
Of note in ED- caught with marijuana in ED- confiscated 

 
Past Medical History:
Anxiety/depression (previously on fluoxetine, but this worsened 
nausea symptoms).

Migraines on prn sumatriptan

History of Bulimia 

 
Social History:
___
Family History:
negative for IBD, +PGF with IBS 

 
Physical Exam:
VITALS: 
___ 0615 Temp: 98.4 PO BP: 126/82 Lying HR: 59 RR: 18 O2 
sat: 98% O2 delivery: Ra 
___ 0616 BP: 135/90 Sitting HR: 86 O2 sat: 94% 
___ 0618 BP: 136/93 Standing HR: 91 O2 sat: 91% 

EXAMINATION:
GENERAL: Alert. Comfortable and in no acute distress.
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma.  
Moist oral mucosa
CV: Heart regular rate and rhythm. No murmur. No JVD.
RESP: Non labored breathing. Lungs clear to auscultation 
throughout. 
GI: Abdomen is soft, nondistended, bowel sounds present. Mild 
tenderness superimposed on areas of the rectus muscle, other 
areas of the abdomen without significant tenderness. No rebound 
or guarding throughout. 
GU: No suprapubic tenderness 
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
 
Pertinent Results:
___ 07:10AM BLOOD WBC-6.9 RBC-4.10 Hgb-13.7 Hct-38.9 MCV-95 
MCH-33.4* MCHC-35.2 RDW-12.3 RDWSD-42.5 Plt ___
___ 07:10AM BLOOD Glucose-86 UreaN-11 Creat-0.7 Na-140 
K-3.5 Cl-101 HCO3-24 AnGap-15
___ 08:22AM BLOOD Glucose-78 UreaN-11 Creat-0.7 Na-142 
K-3.9 Cl-106 HCO3-20* AnGap-16
___ 07:10AM BLOOD Phos-3.1 Mg-1.9
___ 08:22AM BLOOD Calcium-9.1 Phos-4.0 Mg-1.9 Iron-146
___ 02:45PM BLOOD ALT-8 AST-17 AlkPhos-56 Amylase-76 
TotBili-1.2
___ 08:22AM BLOOD calTIBC-291 Ferritn-120 TRF-224
___ 07:10AM BLOOD TSH-3.5
___ 07:35AM BLOOD Cortsol-16.9
___ 07:35AM BLOOD CRP-0.3

UA 30+ protein, +ketones, small leuks, 4 wbc and no bacteria 
Utox neg (marijuana not tested)

UCx pending
Stool culture negative

Outpatient labs:
Gliadin IgG neg
IgA 44 (ref 82-453), TTG IgA 2.45 (ref < 20)

EKG: Sinus bradycardia at 57 bpm, otherwise normal 

 
Brief Hospital Course:
___ with PMHx of anxiety/depression, migraines, marijuana use, 
prior bulimia who is presenting with nausea/vomiting and ~15 lb 
weight loss over the past 3 months.

# Nausea, Vomiting, Abdominal pain complicated by transient 
streaks of blood in emesis and associated with about 15 lb 
weight loss. 
Patient presents with ___ months of nausea and vomiting 
associated with weight loss that have had temporal association 
with increased stressors in relationship. More recently, 
however, her symptoms increased in relation to increased 
Marijuana use. No clear infectious source without leukocytosis; 
urine and stool without bacteria. No clear metabolic derangement 
or autoimmune component (TSH normal). Outpatient work up for 
celiac disease has been negative. GI was consulted who performed 
EGD that showed normal mucosa throughout. GI will consider 
further evaluation of motility disorder or slow gastric emptying 
after complete cessation of marijuana for some time. GI plans 
outpatient follow up. For now, GI recommends symptomatic 
treatment. Overall story most concerning for functional 
abdominal pain with superimposed cannabis hyperemesis syndrome. 
Symptoms now improving with time, pain management, showering,  
and supportive care. She also has focal tenderness on rectus 
muscle suggestive of possible muscle spasm associated with 
increased exercise. Wonder if eating disorder is playing a role. 
Involved psychiatry as noted below. Patient discharged on 
combination regimen that was moderately effective in treating 
pain and nausea in the hospital. Patient tolerating a slowly 
advancing diet with ongoing intermittent nausea/vomiting, but 
less frequent and decreased in volume. Patient discharged on 
ranitidine, antiemetic to be taken standing for 2 days then as 
needed, standing acetaminophen, PRN flexeril for muscle spasms, 
PRN aleve for breakthrough pain, and Ativan for anxiety or 
breakthrough nausea. Patient likely will benefit from outpatient 
nutrition evaluation and management. Scheduled outpatient follow 
up with psychiatrist on ___ AT 10:00 AM.

# Depression/anxiety. Patient with long standing depression and 
anxiety that have worsened recently due to stressors. Has not 
had great response to buproprion. More recently, fluoxetine 
increased nausea. Psychiatry initially suggesting trial of 
mirtazepine, but now recommend this (or other antidepressant) in 
the outpatient setting as patient had hypomanic reaction to 
prior antidepresants. Plan close outpatient follow up with 
psychiatry. Provided support through motivational interviewing. 
Psychiatry recommending behavioral modification. Scheduled 
outpatient follow up with psychiatrist on ___ at 11am. 

Hospital course, assessments, and discharge plans discussed with 
patient and family who expressed understanding and agree to 
discharge. 

 
Medications on Admission:
PRN Sumatriptan
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Cyclobenzaprine 5 mg PO TID:PRN Muscle spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth Q8H PRN Disp #*15 
Tablet Refills:*0 
3.  LORazepam 0.5 mg PO Q4H:PRN Anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth BID PRN Disp #*10 Tablet 
Refills:*0 
4.  Naproxen 500 mg PO Q12H:PRN Breakthrough pain 
RX *naproxen 250 mg 1 tablet(s) by mouth Q12H PRN Disp #*10 
Tablet Refills:*0 
5.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
Take scheduled 1 tablet TID for 2 days, then take only as needed 

RX *ondansetron 4 mg 1 tablet(s) by mouth Q8H PRN Disp #*15 
Tablet Refills:*0 
6.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Nausea and Vomiting
# Abdominal pain
# Transient hematemesis
# Weight loss (~15 lbs)
# Depression and anxiety
# Cannabis hyperemesis syndrome
# Abdominal muscle spasm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
___ were admitted with nausea, abdominal pain, and inability to 
tolerate oral intake. Your symptoms improved with supportive 
care and combine treatment of a few different triggers. ___ will 
continue pain regimen, antinausea medication, and muscle 
relaxant. ___ should gradually increase exercise as your body 
tolerates. Speak with PCP about nutrition consultation and 
appropriate exercise regimens. ___ will follow with your new 
psychiatrist in a few weeks. 
It was a pleasure meeting ___,
Your ___ Care Team
 
Followup Instructions:
___